US07632851B2
b) [(Benzo[1,2,5]oxadiazole-5-carbonyl)-amino]-acetic acid
500 mg (2.13 mmol) [(benzo[1,2,5]oxadiazole-5-carbonyl)-amino]-acetic acid methyl ester are treated in 50 mL methanol with 6 mL (3 eq.) 1N KOH in methanol containing 10% water at room temperature for two hours, then cooled below 5° C. and neutralized with 6 mL 1 N aqueous HCl. The reaction mixture is extracted with ethyl acetate, the combined organic phases are washed with brine and dried with sodium sulfate, then evaporated to dryness to yield the desired product as a beige-pinkish powder. MS (ES−): 220 (M−1)

reactant | [(benzo[1,2,5]oxadiazole-5-carbonyl)-amino]-acetic acid methyl ester | 2.13 mmol, 500 mg | COC(CNC(=O)C=1C=CC=2C(=NON2)C1)=O | C10H9N3O4
reactant | KOH | 1N, 6 mL, 3 eq. | [OH-].[K+]
reactant | HCl | 1 N, 6 mL | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
product | [(Benzo[1,2,5]oxadiazole-5-carbonyl)-amino]-acetic acid | N1=C2C(=NO1)C=C(C=C2)C(=O)NCC(=O)O | C9H7N3O4
